US04373106
To 250 g of chlorosulfonic acid was added dropwise 50 g of 4-methoxyphenylacetone at 0°-5° C. After stirring the mixture for 4 hours at room temperature, the reaction mixture was poured into 2,500 ml of ice water and extracted three times with 500 ml of ethyl acetate. The extract was washed with water and after drying the extract with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The crude crystals obtained were recrystallized from benzene-ether to provide 32 g of 3-chlorosulfonyl-4-methoxyphenylacetone.

reactant | chlorosulfonic acid | 250 g | ClS(=O)(=O)O | ClHO3S
reactant | 4-methoxyphenylacetone | 50 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
product | 3-chlorosulfonyl-4-methoxyphenylacetone | 32 g | ClS(=O)(=O)C=1C=C(C=CC1OC)CC(C)=O | C10H11ClO4S
